US04175190
4.5 G. of dimethyl 6-(3-pyrrolin-1-yl)-2,4-pyrimidine-dicarbamate-3-oxide are suspended in a mixture of 200 ml. of methylene chloride and 200 ml. of water. The suspension is adjusted with concentrated sodium hydroxide to pH 12.5 and stirred at this pH for 3 hours. The two phases are then separated and the aqueous phase is adjusted to pH 3 with concentrated hydrochloric acid. The separated white precipitate is filtered off, pre-dried and recrystallized from a mixture of methylene chloride and methanol, there being obtained pure methyl 5-(3-pyrrolin-1-yl)-2-oxo-2H-[1,2,4]-oxadiazolo[2,3-a]pyrimidine-7-carbamate, having a melting point of 230°-234° C. (decomposition).

reactant | dimethyl 6-(3-pyrrolin-1-yl)-2,4-pyrimidine-dicarbamate-3-oxide | N1(CC=CC1)C1=CC(=[N+](C(=N1)NC(=O)OC)[O-])NC(=O)OC | C12H15N5O5
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
product | methyl 5-(3-pyrrolin-1-yl)-2-oxo-2H-[1,2,4]-oxadiazolo[2,3-a]pyrimidine-7-carbamate | N1(CC=CC1)C1=NC=2N(C(=C1)NC(=O)OC)OC(N2)=O | C11H11N5O4
